US07906652B2
3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide
A mixture of 523 mg (0.41 mmol) of ethyl 3-(1-{l-[(4-chlorophenyl)(3-cyanophenyl)methyl] azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate (Preparation 17), 0.6 mL(1 6.36 mmol) of hydrazine, and 4 mL of EtOH was heated to reflux. After 8 h, the mixture was concentrated to remove solvents to afford the of title compound as an white solid. 1H-NMR(CDCl3) δ 1.20(d, 3H, J=21 Hz), 1.29(d, 3H, J=21 Hz), 2.32 (t, 3H, J=7.1 Hz), 2.85 (t, 1H, J=8 Hz), 2.94 (m, 1H), 3.06 (m, 1H), 3.20 (m, 1H), 3.51 (s, 2H), 3.63 (t, 1H, J=5 Hz), 4.26 (s, 1H), 7.06-7.71 (m, 11H); Mass Spectrum: m/e=509 (M+1, 35Cl), 511 (M+1, 37Cl).

reactant | ethyl 3-(1-{l-[(4-chlorophenyl)(3-cyanophenyl)methyl] azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate | 0.41 mmol, 523 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F)C1=CC(=CC=C1)C#N | C30H29ClF2N2O2
reactant | hydrazine | 6.36 mmol, 0.6 mL | NN | H4N2
solvent | EtOH | 4 mL | CCO | C2H6O
product | 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide | ClC1=CC=C(C=C1)[C@H](N1CC(C1)[C@H](C(C)(C)F)C=1C=C(C(=O)NN)C=C(C1)F)C1=CC(=CC=C1)C#N | C28H27ClF2N4O
